US07494992B2
(1S,2R,4aS,5S,8R,8aR)-2-(acetyloxy)-5-[4-(ethyloxy)-1-methyl-4-oxobut-2-enyl]-8a-hydroxy-3,8-dimethyl-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate
A solution of ((1S,2R,4aS,5R,8R,8aR)-2-(acetyloxy)-8a-hydroxy-3,8-dimethyl-5-[1-methyl-2-oxoethyl]-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate (Preparation 141, 94 mg, 0.163 mmol) and carbethoxymethylene triphenylphosphorane (68 mg, 0.195 mmol) in anhydrous toluene (5 ml) was refluxed under nitrogen for 3 hours and then stirred at room temperature for 18 h before concentrating in vacuo. The residue was treated with sulfuric acid (10%) and extracted with two aliquots of ethyl acetate. The combined organic extracts were washed with saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium chloride solution, dried (MgSO4) and concentrated in vacuo. The crude product was taken up in acetonitrile (1 ml), filtered, and purified by preparative HPLC on a Dynamex®, 5 mm×21.6 mm column, eluting with acetonitrile:water (60:40). The pure fractions were concentrated in vacuo to give the title product (7 mg, 6%).

reactant | (1S,2R,4aS,5R,8R,8aR)-2-(acetyloxy)-8a-hydroxy-3,8-dimethyl-5-[1-methyl-2-oxoethyl]-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 0.163 mmol, 94 mg | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@@H]2[C@@H](CC[C@H]([C@]32O)C)C(C=O)C)C)OC(C)=O)O | C29H37ClN2O8
reactant | carbethoxymethylene triphenylphosphorane | 0.195 mmol, 68 mg | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | (1S,2R,4aS,5S,8R,8aR)-2-(acetyloxy)-5-[4-(ethyloxy)-1-methyl-4-oxobut-2-enyl]-8a-hydroxy-3,8-dimethyl-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 7 mg, 6% | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@@H]2[C@@H](CC[C@H]([C@]32O)C)C(C=CC(=O)OCC)C)C)OC(C)=O)O | C33H43ClN2O9
